US08097759B2
2-Acetoxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-chlorobenzamide (Compound No. 96)
N-[3,5-Bis(trifluoromethyl)phenyl]-5-chloro-2-hydroxybenzamide (1.51 g, 3 mmol) and pyridine (285 mg, 3.6 mmol) were dissolved in tetrahydrofuran (6 mL). Acetyl chloride (234 mg, 3.3 mmol) was added dropwise under ice cooling, and the mixture was stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure. 2 N hydrochloric acid was added to the residue, and it was extracted with ethyl acetate. After the ethyl acetate layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated, the residue was recrystallized from n-hexane-ethyl acetate to give the title compound (1.06 g, 83.0%) as a white solid.

reactant | N-[3,5-Bis(trifluoromethyl)phenyl]-5-chloro-2-hydroxybenzamide | 3 mmol, 1.51 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)Cl)O)=O)(F)F | C15H8ClF6NO2
reactant | pyridine | 3.6 mmol, 285 mg | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | 3.3 mmol, 234 mg | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-Acetoxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-chlorobenzamide | 1.06 g, 83.0% | C(C)(=O)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)Cl | C17H10ClF6NO3
